US07390910B2
A mixture of 1-methylhydantoin (20.25 g, 180 mmole) and acetic acid (100 ml) is heated to 90° C. Bromine (10 ml, 195 mmole) is introduced dropwise at such a rate that instant decolorization occurred. After the addition is completed, the reaction mixture is stirred at 90° C. for 60 minute and at room temperature overnight. The acetic acid is decanted from white precipitate and removed in vacuo. The residue is combined with the precipitate and suspended in diethylether (200 ml). Triethylphosphite (32 ml, 180 mmole) is added portionwise with stirring and cooling. A solution resulted which on continued stirring, yield trace of white precipitate. The mixture is diluted with diethyl ether and allowed to stand overnight. Decanted the solvent, and pumped in vacuum oven to give white crystal ylide, (3-Methyl-2,5-dioxo-imidazolidin-4-yl)-phosphonic acid diethyl ester: 16.57 g (36.8%) MS(ES+): (M+H)=251.0

reactant | 1-methylhydantoin | 180 mmole, 20.25 g | CN1C(=O)NC(=O)C1 | C4H6N2O2
reactant | acetic acid | 100 ml | C(C)(=O)O | C2H4O2
reactant | Bromine | 195 mmole, 10 ml | BrBr | Br2
reactant | Triethylphosphite | 180 mmole, 32 ml | C(C)OP(OCC)OCC | C6H15O3P
solvent | diethyl ether | C(C)OCC | C4H10O
product | (3-Methyl-2,5-dioxo-imidazolidin-4-yl)-phosphonic acid diethyl ester | C(C)OP(OCC)(=O)C1N(C(NC1=O)=O)C | C8H15N2O5P
